US05334740
Pyridine (0.5 ml) was added to 22 mg of 2-hydroxymethyl-3,4-(dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone, and 0.1 ml of methanesulfonyl chloride was then added at 0° C., followed by stirring the mixture for 2 hours. The reaction mixture was poured into cold dilute hydrochloric acid, and extracted with diethyl ether. The extract was washed with a saturated sodium hydrogen carbonate aqueous solution and then with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to provide 1.8 mg of 2-methylene-3,4-(dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone having the following properties (yield 8.8%).

reactant | 2-hydroxymethyl-3,4-(dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone | 22 mg | OCC1C(CC(C2C1OC(O2)(C)C)OCOC)=O | C12H20O6
reactant | methanesulfonyl chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | Pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylene-3,4-(dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone | 1.8 mg, yield 8.8% | C=C1C(CC(C2C1OC(O2)(C)C)OCOC)=O | C12H18O5
